### PR TITLE
chore: remove upstreamed `summable_hammerTime` lemma

### PR DESCRIPTION
**Pull request by dwrensha**
`summable_hammerTime` was upstreamed as [`summable_inv_of_isBigO_rpow_inv`](https://github.com/leanprover-community/mathlib4/blob/8ee8525c1e1c3a2794c2bfa32465f220ecf0d1a4/Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean#L206-L213) in https://github.com/leanprover-community/mathlib4/pull/26005.

### CODE REVIEW

File: SpherePacking/ModularForms/summable_lems.lean [hunk 1]
```diff
@@ -506,7 +495,7 @@ theorem summable_diff_denom (z : ℍ) (i : ℤ) :
     enter [1]
     ext m
     rw [← mul_inv]
-  apply summable_hammerTime _ 2 (by norm_num)
+  apply summable_inv_of_isBigO_rpow_inv one_lt_two
```
Comment (dwrensha) [inline SpherePacking/ModularForms/summable_lems.lean:498]: `a` is now an implicit parameter, so it would not work to do just
```lean
  apply summable_inv_of_isBigO_rpow_inv (by norm_num)
```

We could do
```lean
  apply summable_inv_of_isBigO_rpow_inv (a := 2) (by norm_num)
```
but I thought that `one_lt_two` is nicer.

**Review by b-mehta — APPROVED** [review]
Thanks!
